US06498251B1
Synthesis Example 29c 2-(Morpholine-4-carbonyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine
5-t-Butoxycarbonyl-2-(morpholine-4-carbonyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine (610 mg, 1.7 mmol) was mixed with hydrochloric acid-saturated methanol and stirred at room temperature for two nights. The solvent was removed by evaporation from the reaction solution under a reduced pressure, and the residue was mixed with sodium hydroxide aqueous solution (1 N). The reaction product was extracted with ethyl acetate, and the organic layer was washed with saturated brine and dried with anhydrous magnesium sulfate. By evaporating the solvent from the organic layer under a reduced pressure, 270 mg (1.1 mmol, 63% in yield) of the title compound was obtained.

reactant | 5-t-Butoxycarbonyl-2-(morpholine-4-carbonyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | 1.7 mmol, 610 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)C(=O)N2CCOCC2 | C17H24N2O4S
reactant | hydrochloric acid | Cl | ClH
product | 2-(Morpholine-4-carbonyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | N1(CCOCC1)C(=O)C1=CC=2CNCCC2S1 | C12H16N2O2S
